US06294558B1
2-(4-Bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-trifluoromethyl-1H-imidazole. (step 3)
A mixture of 2-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-hydroxy-4-trifluoromethyl-4,5-dihydro-1H-imidazole (3.05 g, 6.33 mmol) and p-toluenesulfonic acid monohydrate (0.300 g) in toluene (250 mL) was heated to reflux for 21 hours. The reaction mixture was cooled and the solvent removed under reduced pressure. The crude residue was redissolved in methylene chloride (150 mL) and the whole washed with water, aqueous NaHCO3 (50 mL), and brine. After dried over MgSO4, and concentrated in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (3/1) to give the subtitle compound (1.517 g, 51.8% yield).

reactant | 2-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-hydroxy-4-trifluoromethyl-4,5-dihydro-1H-imidazole | 6.33 mmol, 3.05 g | BrC1=CC=C(C=C1)C=1N(CC(N1)(C(F)(F)F)O)C1=CC(=C(C=C1)S(=O)(=O)C)F | C17H13BrF4N2O3S
reactant | p-toluenesulfonic acid monohydrate | 0.300 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-trifluoromethyl-1H-imidazole | 1.517 g, 51.8% yield | BrC1=CC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)C1=CC(=C(C=C1)S(=O)(=O)C)F | C17H11BrF4N2O2S
